US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(2-propen-1-yl)benzonitrile (0.113 g, 0.358 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.099 g, 0.358 mmol), and DIEA (0.125 mL, 0.715 mmol) were combined in THF (4 mL) and stirred at 25° C. overnight. Additional 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.049 g, 0.179 mmol), EDC (0.069 g, 0.358 mmol) and THF (4.00 mL) were added to the reaction mixture and stirred at 50° C. overnight. The reaction mixture was concentrated to dryness and partitioned between DCM and saturated aqueous NaHCO3. The organic phase was isolated, dried over MgSO4, filtered and concentrated to dryness. The residue was purified on 40 g silica gel eluted with 20 to 70% EtOAc/hexanes to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(2-propen-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.088 g, 0.153 mmol, 42.7% yield) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.78 (t, J=5.81 Hz, 1H), 8.00 (s, 1H), 7.36-7.52 (m, 3H), 7.20 (s, 1H), 7.17 (s, 1H), 5.86-6.01 (m, 1H), 5.51 (s, 2H), 5.10 (d, J=5.49 Hz, 1H), 5.07 (s, 1H), 4.50 (d, J=5.77 Hz, 2H), 3.40 (m, 4H), 0.77 (t, J=8.10 Hz, 2H), −0.07 (s, 9 H). LC-MS (ES−) m/z 573.22, 575.17 [M−1]. LC-MS (ES+) m/z 575.15, 577.16 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(2-propen-1-yl)benzonitrile | 0.358 mmol, 0.113 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)CC=C)F | C17H14ClFN2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.358 mmol, 0.099 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | DIEA | 0.715 mmol, 0.125 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.179 mmol, 0.049 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | EDC | 0.358 mmol, 0.069 g
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4.00 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(2-propen-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.153 mmol, 0.088 g, 42.7% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC=C)C#N)F)COCC[Si](C)(C)C | C27H29Cl2FN4O3Si
